US05604237
1,2,3,4-Tetrahydro-2-[3-(4-nitrophenoxy)propyl]isoquinoline
A mixture of 1-(3-bromopropoxy)-4-nitrobenzene (10 g), 1,2,3,4-tetrahydroisoquinoline (5.1 g) and potassium carbonate (10.6 g) in DMF (100 ml) was stirred at 70° for 24 h. The mixture was then filtered and the filtrate evaporated. The residue was taken up with water and extracted with dichloromethane. The organic layer was washed with water, dried, evaporated and purified by column chromatography eluting with dichloromethane/methanol (96:4) to give the title compound (8.8 g) as a yellow oil. NMR includes signals at d 3.6 (2H,s,N--CH2Ar), 4.1 (2H,t,O--CH2).

reactant | 1-(3-bromopropoxy)-4-nitrobenzene | 10 g | BrCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10BrNO3
reactant | 1,2,3,4-tetrahydroisoquinoline | 5.1 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 10.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-2-[3-(4-nitrophenoxy)propyl]isoquinoline | 8.8 g | [N+](=O)([O-])C1=CC=C(OCCCN2CC3=CC=CC=C3CC2)C=C1 | C18H20N2O3
